US06548495B2
{5-Morpholin-4-yl-2-[3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J1) (361 mg, 1.0 mmol) and 3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionic acid tert.-butyl ester (Example K12) (286 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow amorphous substance (367 mg).

reactant | (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 1.0 mmol, 361 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)N)=O | C16H22F3N3O3
reactant | 3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionic acid tert.-butyl ester | 1.0 mmol, 286 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CC=C1)=O)=O | C16H18N2O3
product | {5-Morpholin-4-yl-2-[3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=CC=C1)=O)=O)=O | C28H30F3N5O5
